US07754757B2
In a similar manner to Example 8, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (30.0 mg) and 2,3,4,5,6-pentafluorobenzyl bromide (26.6 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-(2,3,4,5,6-pentafluorobenzyl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (41.9 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 30.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 2,3,4,5,6-pentafluorobenzyl bromide | 26.6 mg | FC1=C(CBr)C(=C(C(=C1F)F)F)F | C7H2BrF5
product | (2S,4S)-4-fluoro-1-[[N-[4-(2,3,4,5,6-pentafluorobenzyl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 41.9 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)OCC2=C(C(=C(C(=C2F)F)F)F)F)=O)C#N | C23H23F6N3O3
